US07238724B2
5-Methyl-4-oxo-pyrrolidine-1,2,3-tricarboxylic acid 2,3-dibenzyl ester 1-tert-butyl ester
To a solution of 5.59 g (20.0 mmol) of (R)-N-tert-butoxycarbonylalanine benzyl ester and 5.92 g (20.0 mmol) of dibenzyl fumarate in 60 mL of toluene was added 1.60 g (40 mmol) of 60% NaH in mineral oil. The reaction was stirred at ambient temperature under N2 for 24 h, then diluted with 300 mL of diethyl ether. The solution was extracted with 1M HCl(aq.) (1×50 mL), saturated NaHCO3(aq.) (3×50 mL), and brine (1×50 mL), dried over MgSO4, filtered, and concentrated to provide the titled compound as an oil.

reactant | (R)-N-tert-butoxycarbonylalanine benzyl ester | 20.0 mmol, 5.59 g | C(C1=CC=CC=C1)OC([C@H](NC(=O)OC(C)(C)C)C)=O | C15H21NO4
reactant | dibenzyl fumarate | 20.0 mmol, 5.92 g | C(\C=C\C(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C18H16O4
reactant | NaH | 40 mmol, 1.60 g | [H-].[Na+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 5-Methyl-4-oxo-pyrrolidine-1,2,3-tricarboxylic acid 2,3-dibenzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(C(C(C1C)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C26H29NO7
